US07241798B2
Mixture of diastereomers, one being (1R,2S)-3-Benzyl-1-(3,5-bis-trifluoromethyl-benzyloxy)-2-phenyl-3-aza-bicyclo[3.1.0]hexane
To Intermediate 28, mixture of diastereomers ((1R,2S)-3-benzyl-2-phenyl-3-aza-bicyclo[3.1.0]hexan-1-ol (0.40 g, 1.5 mmol) and tetrabutylammonium iodide (0.26 g, 0.70 mmol) in a flask was added THF (15 mL) and the mixture cooled to −78° C. Potassium bis(trimethylsilyl)amide (0.5M/toluene, 4.5 mL, 2.2 mmol) was added dropwise and the reaction was stirred for 10 minutes. 1-Bromomethyl-3,5-bis-trifluoromethyl-benzene (0.39 mL, 2.1 mmol) was added dropwise and the reaction stirred for an additional 10 minutes, then allowed to warm to room temperature. The solvent was removed at reduced pressure and the residue partitioned between H2O and EtOAc, the organics washed with brine and dried over calcium sulfate, filtered and concentrated. The crude product was purified on a Biotage flash 40 system eluted with a gradient of 1% ETOAc/Hexanes to 2% ETOAc/Hexanes to give the title compound as an oil. (0.55 g, 74% yield).

reactant | (1R,2S)-3-benzyl-2-phenyl-3-aza-bicyclo[3.1.0]hexan-1-ol | 1.5 mmol, 0.40 g | C(C1=CC=CC=C1)N1[C@H]([C@]2(CC2C1)O)C1=CC=CC=C1 | C18H19NO
reactant | Potassium bis(trimethylsilyl)amide | 2.2 mmol, 0.5M, 4.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 1-Bromomethyl-3,5-bis-trifluoromethyl-benzene | 2.1 mmol, 0.39 mL | BrCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H5BrF6
catalyst | tetrabutylammonium iodide | 0.70 mmol, 0.26 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (1R,2S)-3-Benzyl-1-(3,5-bis-trifluoromethyl-benzyloxy)-2-phenyl-3-aza-bicyclo[3.1.0]hexane | 74% yield | C(C1=CC=CC=C1)N1[C@H]([C@]2(CC2C1)OCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C27H23F6NO
